US04263324
A solution of 40 g of methyl undecyl ketone and 18 g of hydroxylamino hydrochloride in 200 ml of ethanol, 60 ml of water and 10 g of NaOH is refluxed for 5 hours and thereafter cooled. The ethanol is distilled off in vacuo and the reaction mixture is then diluted with water, extracted with ether and the ethereal extract is dried over Na2SO4. The ether is distilled off and the solid residue is then distilled in vacuo, affording 40 g of 2-tridecanone oxime. Melting point (after recrystallisation from ether); 51°-53° C.

reactant | methyl undecyl ketone | 40 g | C(CCCCCCCCCC)C(=O)C | C13H26O
reactant | hydroxylamino hydrochloride | 18 g | ONCl | ClH2NO
reactant | NaOH | 10 g | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | 2-tridecanone oxime | 40 g | CC(CCCCCCCCCCC)=NO | C13H27NO
